US06849761B2
5-{[(4-Fluorobenzyl)amino]methyl)-6-methoxy-2-naphthoic acid
The title compound was prepared as a white solid (0.212 g, 34% for two steps) from 6-methoxy-5-formyl-2-naphthoic acid methyl ester using 4-fluorobenzyl amine and a procedure similar to steps 3-4 of Example 1, mp 268-270° C. (decomp.); 1H NMR (DMSO-d6) δ3.94 (s, 3H), 4.29 (s, 2H), 4.48 (s, 2H), 7.31 (t, J=8.9 Hz, 2H), 7.60 (d, J=9.2 Hz, 1H), 7.65 (dd, J=5.7, 8.6 Hz, 2H), 7.99 (dd, J=1.5, 8.9 Hz, 1H), 8.12 (d, J=9.0 Hz, 1H), 8.28 (d, J=9.2 Hz, 1H), 8.60 (d, J=0.92 Hz, 1H), 9.07-9.42 (bs, 2H), 12.73-13.27 (bs, 1H); IR (neat) 3470, 3390, 2880-3080, 2820, 2760, 2680, 2610, 1710, 1630, 1600, 1595, 1515, 1485, 1465, 1445, 1270, 1260, 1235, 1210, 1195, 1185, 1095, and 1000 cm−1; mass spectrum [(+) ESI], m/z 340 (M +H)+ and [(−) ESI], m/z 338 (M−H)−; Anal. Calcd. for C20H18FNO3.HCl.0.5H2O: C, 62.42; H, 4.98; N, 3.64, Found: C, 62.07; H, 5.37; N, 3.53.

reactant | 6-methoxy-5-formyl-2-naphthoic acid methyl ester | COC(=O)C1=CC2=CC=C(C(=C2C=C1)C=O)OC | C14H12O4
reactant | 4-fluorobenzyl amine | FC1=CC=C(CN)C=C1 | C7H8FN
product | 5-{[(4-Fluorobenzyl)amino]methyl)-6-methoxy-2-naphthoic acid | FC1=CC=C(CNCC2=C3C=CC(=CC3=CC=C2OC)C(=O)O)C=C1 | C20H18FNO3
